US08866135B2
(A-2) Synthesis of 1,3-dibromo-2,6-dimethoxybenzene
17.9 g of 1-bromo-2,6-dimethoxybenzene and 200 mL of acetonitrile were placed in a flask, and the resulting mixture was cooled on ice. Then, 14.7 g of N-bromosuccinimide was added. Then, while heating the reaction solution to room temperature, stirring was conducted for 8 hours. 2.39 g of N-bromosuccinimide was further added, and stirring was conducted at room temperature for 7 hours. After completion of the stirring, the solvent was distilled off under reduced pressure. Residues were dissolved in dichloromethane, and washed sequentially with sodium thiosulfate and saturated saline. An organic phase was dried with magnesium sulfate and concentrated. Residues were purified by means of silica gel column chromatography, whereby 23.2 g (yield: 95%) of colorless oil of 1,3-bromo-2,6-dimethoxybenzene was obtained.

reactant | 1-bromo-2,6-dimethoxybenzene | 17.9 g | BrC1=C(C=CC=C1OC)OC | C8H9BrO2
reactant | N-bromosuccinimide | 14.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 2.39 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 1,3-dibromo-2,6-dimethoxybenzene | 23.2 g, yield: 95% | BrC1=C(C(=CC=C1OC)Br)OC | C8H8Br2O2
